US07129235B2
methyl 3′-(trifluoromethyl)-3,6-dihydro-2H-1,2′-bipyridine-4-carboxylate
Lithium diisopropyl amide (37.3 mmol) in THF (75 mL) at −78° C. was treated with 1-[3-(trifluoromethyl)pyridin-2-yl]piperidin-4-one (8.30 g, 34.0 mmol) in THF (25 mL) and stirred for 45 minutes. The mixture was treated with solid PhNTf2 (14.0 g, 39.1 mmol), stirred for 1 hour, and concentrated under reduced pressure. The residue was diluted with ethyl acetate:hexanes (1:1), washed with 1N NaOH, dried (Na2SO4), filtered through a silica plug, and the filtrate was concentrated under reduced pressure. The residue, triethylamine (14.2 mL, 102 mmol), and PdCl2(PPh3)2 (0.944 g, 1.34 mmol) were combined in methanol (7.00 mL, 173 mmol) and DMF (100 mL) and saturated with carbon monoxide gas (bubbling 15 minutes). The mixture was heated at 80° C. under a carbon monoxide atmosphere (1 atm) overnight. The mixture was concentrated to half volume, diluted with diethyl ether, washed with water, brine, dried (Na2SO4), filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography (6% ethyl acetate/hexanes) to provide the title compound.

reactant | Lithium diisopropyl amide | 37.3 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-[3-(trifluoromethyl)pyridin-2-yl]piperidin-4-one | 34.0 mmol, 8.30 g | FC(C=1C(=NC=CC1)N1CCC(CC1)=O)(F)F | C11H11F3N2O
reactant | PhNTf2 | 39.1 mmol, 14.0 g | C1(=CC=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triethylamine | 102 mmol, 14.2 mL | C(C)N(CC)CC | C6H15N
reactant | methanol | 173 mmol, 7.00 mL | CO | CH4O
reactant | carbon monoxide | [C]=O | CO
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(PPh3)2 | 1.34 mmol, 0.944 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | methyl 3′-(trifluoromethyl)-3,6-dihydro-2H-1,2′-bipyridine-4-carboxylate | FC(C=1C(=NC=CC1)N1CCC(=CC1)C(=O)OC)(F)F | C13H13F3N2O2
